US06583133B1
By operating in an analogous manner to the procedure described in Examples 56-81(a), (E)-(6R,7R)-3-(3-iodo-propenyl)-8-oxo-7-trimethylsilanylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-4-carboxylic acid trimethylsilanyl ester was reacted with 4,4′-butane-1,4-diyl-bis-morpholine, and with N,N,N′,N′-tetramethyl-1,4-butanediamine, respectively, to give

reactant | (E)-(6R,7R)-3-(3-iodo-propenyl)-8-oxo-7-trimethylsilanylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-4-carboxylic acid trimethylsilanyl ester | C[Si](C)(C)OC(=O)C1C(=CN2C([C@H]([C@H]2S1)N[Si](C)(C)C)=O)\C=C\CI | C16H27IN2O3SSi2
reactant | 4,4′-butane-1,4-diyl-bis-morpholine | C(CCCN1CCOCC1)N1CCOCC1 | C12H24N2O2
product | N,N,N′,N′-tetramethyl-1,4-butanediamine | CN(CCCCN(C)C)C | C8H20N2
